data/polar.json
{"reaction_name": "σ-Bond carbon transfer to a preformed localized carbocation", "rsmi": "[cH:1]1[cH:3][c:4]2[c:23]([cH:10][cH:27]1)[CH:22]=[CH:2][CH:17]2[Li:5].[cH:6]1[c:11]([CH+:26][c:12]2[cH:7][c:15]([F:20])[cH:25][c:16]([F:21])[cH:8]2)[cH:9][c:13]([F:18])[cH:24][c:14]1[F:19]>>[Li+:5].[cH:1]1[cH:3][c:4]2[c:23]([cH:10][cH:27]1)[CH:22]=[CH:2][CH:17]2[CH:26]([c:11]1[cH:6][c:14]([F:19])[cH:24][c:13]([F:18])[cH:9]1)[c:12]1[cH:7][c:15]([F:20])[cH:25][c:16]([F:21])[cH:8]1", "epd": [["Sigma-/Sigma+", [17, 5], [17, 26]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:3](=[O+:15][CH3:14])[c:18]1[cH:11][cH:9][cH:7][cH:10][cH:12]1.[cH:1]1[cH:4][c:5]2[c:17]([cH:8][cH:19]1)[CH:16]=[CH:2][CH:13]2[Li:6]>>[Li+:6].[cH:1]1[cH:4][c:5]2[c:17]([cH:8][cH:19]1)[CH:16]=[CH:2][CH:13]2[CH:3]([O:15][CH3:14])[c:18]1[cH:11][cH:9][cH:7][cH:10][cH:12]1", "epd": [["Sigma-/Sigma+", [13, 6], [13, 3]], ["Pi-/LP+", [3, 15], [15]]]}
{"reaction_name": "Tosylhydrazone formation", "rsmi": "[CH3:1][c:15]1[cH:6][cH:11][c:5]([S:13]([NH:2][N:10]([H:16])[H:17])(=[O:3])=[O:4])[cH:12][cH:7]1.[O:8]=[CH:14][CH3:9]>>[CH3:1][c:15]1[cH:6][cH:11][c:5]([S:13]([NH:2][N:10]=[CH:14][CH3:9])(=[O:3])=[O:4])[cH:12][cH:7]1.[O:8]([H:16])[H:17]", "epd": [["LP-/Sigma+", [10], [10, 14]], ["Sigma-/LP+", [8, 14], [8]], ["LP-/Sigma+", [8], [8, 16]], ["Sigma-/LP+", [10, 16], [10]], ["LP-/Pi+", [10], [10, 14]], ["Pi-/LP+", [8, 14], [8]], ["LP-/Sigma+", [8], [8, 17]], ["Sigma-/LP+", [10, 17], [10]]]}
{"reaction_name": "Triflation activation", "rsmi": "[CH3:6][CH2:12][O:9][H:10].[S:1]([Cl:5])(=[O:7])(=[O:8])[C:11]([F:2])([F:3])[F:4]>>[Cl:5][H:10].[S:1](=[O:7])(=[O:8])([O:9][CH2:12][CH3:6])[C:11]([F:2])([F:3])[F:4]", "epd": [["LP-/Sigma+", [9], [1, 9]], ["Pi-/LP+", [7, 1], [7]], ["LP-/Pi+", [7], [7, 1]], ["Sigma-/LP+", [1, 5], [5]], ["LP-/Sigma+", [5], [5, 10]], ["Sigma-/LP+", [9, 10], [9]]]}
{"reaction_name": "Addition to chiral sulfinimines", "rsmi": "[CH3:1][Mg:5][Br:12].[CH3:2][C:10]([CH3:3])([CH3:4])[S:9]([N:6]=[CH:8][CH3:7])=[O:11]>>[Br-:12].[CH3:1][CH:8]([N-:6][S:9]([C:10]([CH3:2])([CH3:3])[CH3:4])=[O:11])[CH3:7].[Mg+2:5]", "epd": [["Sigma-/Sigma+", [1, 5], [1, 8]], ["Pi-/LP+", [6, 8], [6]], ["Sigma-/LP+", [5, 12], [12]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:4]1(=[CH2:12])[N:19]([CH3:6])[c:16]2[cH:10][cH:13][cH:14][cH:11][c:15]2[N:20]1[CH3:7].[CH3:1][CH2:8][O:5][C:25]([CH:2]=[C:9]([CH3:26])[N:31]=[N:21][C:3](=[O:22])[NH:24][c:27]1[cH:29][cH:17][cH:28][cH:18][cH:30]1)=[O:23]>>[CH3:1][CH2:8][O:5][C:25]([CH:2]([C:9]([CH3:26])=[N:31][N:21]=[C:3]([O-:22])[NH:24][c:27]1[cH:29][cH:17][cH:28][cH:18][cH:30]1)[CH2:12][c:4]1[n+:19]([CH3:6])[c:16]2[cH:10][cH:13][cH:14][cH:11][c:15]2[n:20]1[CH3:7])=[O:23]", "epd": [["LP-/Pi+", [19], [4, 19]], ["Pi-/Sigma+", [12, 4], [12, 2]], ["Pi-/Pi+", [2, 9], [9, 31]], ["Pi-/Pi+", [31, 21], [21, 3]], ["Pi-/LP+", [3, 22], [22]]]}
{"reaction_name": "Michael addition", "rsmi": "[Li+:14].[S:7]([c:17]1[cH:28][cH:21][cH:19][cH:24][cH:31]1)([C:27]([S:8]([c:18]1[cH:29][cH:22][cH:20][cH:23][cH:30]1)(=[O:33])=[O:34])=[CH2:16])(=[O:35])=[O:36].[c:1]1([CH3:32])[o:15][c:5]([B-:25]23[O:2][CH2:11][C:9]([CH3:6])([CH2:12][O:3]2)[CH2:13][O:4]3)[cH:10][cH:26]1>>[Li+:14].[O:2]1[CH2:11][C:9]2([CH3:6])[CH2:12][O:3][B:25]1[O:4][CH2:13]2.[c:1]1([CH3:32])[o:15][c:5]([CH2:16][C-:27]([S:7]([c:17]2[cH:28][cH:21][cH:19][cH:24][cH:31]2)(=[O:35])=[O:36])[S:8]([c:18]2[cH:29][cH:22][cH:20][cH:23][cH:30]2)(=[O:33])=[O:34])[cH:10][cH:26]1", "epd": [["Sigma-/Sigma+", [5, 25], [5, 16]], ["Pi-/LP+", [16, 27], [27]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:2](=[O:3])([c:10]1[cH:8][c:12]([N+:15](=[O:7])[O-:19])[cH:16][c:9]2[c:21]1[n:14][o:20][n+:25]2[O-:4])[O-:13].[S:1]([c:5]1[cH:23][cH:17][cH:11][cH:18][cH:24]1)([O-:6])=[O:22]>>[S+:1]([c:5]1[cH:23][cH:17][cH:11][cH:18][cH:24]1)([O-:6])([CH:16]1[c:9]2[c:21]([n:14][o:20][n+:25]2[O-:4])[C:10]([N+:2](=[O:3])[O-:13])=[CH:8][C:12]1=[N+:15]([O-:7])[O-:19])=[O:22]", "epd": [["LP-/Sigma+", [1], [1, 16]], ["Pi-/Pi+", [16, 12], [12, 15]], ["Pi-/LP+", [15, 7], [7]]]}
{"reaction_name": "Alkyl migration in iminium ions", "rsmi": "[NH:1]([CH3:2])[C:6]([CH3:3])([CH3:4])[CH2+:5]>>[NH:1]([CH3:2])[C+:6]([CH3:3])[CH2:5][CH3:4]", "epd": [["Sigma-/Sigma+", [4, 6], [4, 5]]]}
{"reaction_name": "Dithioacetal formation", "rsmi": "[O:3]=[CH:7][CH3:4].[S:1]([CH3:5])[H:8].[S:2]([CH3:6])[H:9]>>[O:3]([H:8])[H:9].[S:1]([CH3:5])[CH:7]([S:2][CH3:6])[CH3:4]", "epd": [["LP-/Sigma+", [1], [1, 7]], ["Sigma-/LP+", [3, 7], [3]], ["LP-/Sigma+", [3], [3, 8]], ["Sigma-/LP+", [1, 8], [1]], ["LP-/Sigma+", [2], [2, 7]], ["Pi-/LP+", [3, 7], [3]], ["LP-/Sigma+", [3], [3, 9]], ["Sigma-/LP+", [2, 9], [2]]]}
